** sch_path: /foss/designs/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/coarse_gain/cg_ota.sch
**.subckt cg_ota VDD V_inp V_inn V_out I_bias VSS
*.ipin V_inn
*.ipin VDD
*.ipin VSS
*.opin V_out
*.ipin I_bias
*.ipin V_inp
XM1 F1 V_inn VDD VDD sg13_lv_pmos w=26.56u l=2u ng=4 m=1 mm_ok=1
XM2 F2 V_inp VDD VDD sg13_lv_pmos w=26.56u l=2u ng=4 m=1 mm_ok=1
XM3 net5 net5 VDD VDD sg13_lv_pmos w=7.33u l=2u ng=1 m=1 mm_ok=1
XM4 N_A net5 VDD VDD sg13_lv_pmos w=7.33u l=2u ng=1 m=1 mm_ok=1
XM7 F1 V_bn2 VSS VSS sg13_lv_nmos w=9.21u l=2u ng=1 m=1 mm_ok=1
XM8 F2 V_bn2 VSS VSS sg13_lv_nmos w=9.21u l=2u ng=1 m=1 mm_ok=1
XM_tail VDD V_btail VDD VDD sg13_lv_pmos w=7.46u l=2u ng=1 m=8 mm_ok=1
XM_ctrlp N_B V_ctrlp N_A VDD sg13_lv_pmos w=2.20u l=0.50u ng=1 m=1 mm_ok=1
XM_outp V_out N_A VDD VDD sg13_lv_pmos w=22.20u l=0.5u ng=4 m=1 mm_ok=1
XM_ctrln N_A V_ctrln N_B VSS sg13_lv_nmos w=0.84u l=0.5u ng=1 m=1 mm_ok=1
XM_outn V_out N_B VSS VSS sg13_lv_nmos w=8.4u l=0.5u ng=1 m=1 mm_ok=1
XM5 net5 V_bn1 F1 VSS sg13_lv_nmos w=6.41u l=2u ng=1 m=1 mm_ok=1
XM6 N_A V_bn1 F2 VSS sg13_lv_nmos w=6.41u l=2u ng=1 m=1 mm_ok=1
XM_mp1 net1 net1 VDD VDD sg13_lv_pmos w=2.30u l=2u ng=1 m=1 mm_ok=1
XM_mn1 net1 I_bias VSS VSS sg13_lv_nmos w=0.87u l=2u ng=1 m=1 mm_ok=1
XM_refn I_bias I_bias VSS VSS sg13_lv_nmos w=0.87u l=2u ng=1 m=1 mm_ok=1
XM_mp2 V_bn1 net1 VDD VDD sg13_lv_pmos w=11.50u l=2u ng=2 m=1 mm_ok=1
XM_mp3 V_bn2 net1 VDD VDD sg13_lv_pmos w=23u l=2u ng=4 m=1 mm_ok=1
XM_bn1 V_bn1 V_bn1 net2 VSS sg13_lv_nmos w=1.60u l=2u ng=1 m=1 mm_ok=1
XM_bn2 V_bn2 V_bn2 VSS VSS sg13_lv_nmos w=9.21u l=2u ng=1 m=1 mm_ok=1
XM_mn2 V_btail I_bias VSS VSS sg13_lv_nmos w=6u l=2u ng=1 m=1 mm_ok=1
XM_rep_tail V_btail V_btail VDD VDD sg13_lv_pmos w=7.46u l=2u ng=1 m=8 mm_ok=1
XM_mn4 N_B I_bias VSS VSS sg13_lv_nmos w=2.82u l=2u ng=1 m=1 mm_ok=1
XC1 F2 V_out cap_cmomf w=26.48e-6 l=26.48e-6 mmin=1 mmax=4 subblock=0 m=1 mm_ok=1
XC2 N_A V_out cap_cmomf w=22.07e-6 l=22.07e-6 mmin=1 mmax=4 subblock=0 m=1 mm_ok=1
XR1 net2 VSS VSS rhigh w=0.5e-6 l=17e-6 m=1 b=0 mm_ok=1
XM_mp4 V_ctrln net1 VDD VDD sg13_lv_pmos w=3.73u l=2u ng=1 m=1 mm_ok=1
XM_rep_ctrln V_ctrln V_ctrln net3 VSS sg13_lv_nmos w=0.84u l=0.5u ng=1 m=1 mm_ok=1
XM_rep_outn net3 net3 VSS VSS sg13_lv_nmos w=2.10u l=0.5u ng=1 m=1 mm_ok=1
XM_mn3 V_ctrlp I_bias VSS VSS sg13_lv_nmos w=1.41u l=2u ng=1 m=1 mm_ok=1
XM_rep_outp net4 net4 VDD VDD sg13_lv_pmos w=5.55u l=0.5u ng=1 m=1 mm_ok=1
XM_rep_ctrlp V_ctrlp V_ctrlp net4 VDD sg13_lv_pmos w=2.20u l=0.50u ng=1 m=1 mm_ok=1
XM_mp5 N_A net1 VDD VDD sg13_lv_pmos w=7.46u l=2u ng=1 m=1 mm_ok=1
**.ends
.end
